US07157539B2
C.I. Basic Black-2;
C.I. Basic Red-1, -2, -9, -12, -13, -14, -27; C.I. Basic Blue-1, -3, -5, -7, -9, -24, -25, -26, -28, -29; C.I. Basic Violet-7, -14, -27; C.I. Food Black-1, -2.

reactant | C.I. Basic Red-1 | CCNC1=C(C=C2C(=C1)OC3=CC(=[NH+]CC)C(=CC3=C2C4=CC=CC=C4C(=O)OCC)C)C.[Cl-]
reactant | C.I. Basic Blue-1 | CN(C)C1=CC=C(C=C1)C(=C2C=CC(=[N+](C)C)C=C2)C3=CC=CC=C3Cl.[Cl-]
reactant | C.I. Basic Violet-7 | CCN(CCCl)C1=CC(=C(C=C1)C=CC2=[N+](C3=CC=CC=C3C2(C)C)C)C.[Cl-]
reactant | C.I. Food Black-1 | CC(=O)NC1=C2C(=C(C=C1)S(=O)(=O)[O-])C=C(/C(=N\NC3=C4C=C(C=CC4=C(C=C3)N=NC5=CC=C(C=C5)S(=O)(=O)[O-])S(=O)(=O)[O-])/C2=O)S(=O)(=O)[O-].[Na+].[Na+].[Na+].[Na+]
product | C.I. Basic Black-2 | CCN(CC)C1=CC2=[N+](C3=C(C=CC(=C3)NN=C4C=CC(=O)C=C4)N=C2C=C1)C5=CC=CC=C5.[Cl-] | InChI=1S/C28H25N5O.ClH/c1-3-32(4-2)23-13-17-26-28(19-23)33(22-8-6-5-7-9-22)27-18-21(12-16-25(27)29-26)31-30-20-10-14-24(34)15-11-20;/h5-19H,3-4H2,1-2H3;1H
